US06960614B2
N-Boc-O-Benzyl-L-Serine (8.86 g, 30.0 mmol) was dissolved in tetrahydrofuran (94 mL) and the resultant solution was cooled with a 0° C. ice bath. Methyl iodide (15.0 mL, 241 mmol) was added in one portion. After 5 min, sodium hydride (60% dispersion in mineral oil, 3.6 g, 90 mmol) was added in three portions during 10 min. The resultant reaction mixture was stirred under nitrogen for 76 h while the cooling bath temperature was maintained at 0° C. The reaction mixture was diluted with cold (0-5° C.) ethyl acetate (150 mL) and water (1.5 mL) was added dropwise over 10 min. The cooling bath temp was allowed to slowly warm to ambient temperature overnight. The reaction mixture was concentrated to a viscous oil on a rotary evaporator without heating. The residue was partitioned between ether (100 mL) and water (300 mL). The ethereal layer was further washed with saturated aqueous sodium bicarbonate (150 mL). The combined aqueous portions were acidified to pH 3 using aqueous citric acid (2 M) and were extracted with ethyl acetate (3×150 mL). The combined extracts were washed with water (2×150 mL) and 5% aqueous sodium thiosulfate (150 mL), dried over magnesium sulfate and concentrated on a rotary evaporator (without heating) to afford (S)-3-Benzyloxy-2-(tert-butoxycarbonyl-methyl-amino)-propionic acid as viscous, colorless oil (8.98 g).

reactant | N-Boc-O-Benzyl-L-Serine | 30.0 mmol, 8.86 g | C(=O)(OC(C)(C)C)N[C@@H](COCC1=CC=CC=C1)C(=O)O | C15H21NO5
reactant | Methyl iodide | 241 mmol, 15.0 mL | CI | CH3I
reactant | sodium hydride | 90 mmol, 3.6 g | [H-].[Na+]
solvent | tetrahydrofuran | 94 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 1.5 mL | O | H2O
product | (S)-3-Benzyloxy-2-(tert-butoxycarbonyl-methyl-amino)-propionic acid | C(C1=CC=CC=C1)OC[C@@H](C(=O)O)N(C)C(=O)OC(C)(C)C | C16H23NO5
